US06177440B1
40% Methanolic Triton B (2.06 mL, 4.53 mM) was slowly added dropwise to a solution of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (930.0 mg, 3.82 mM) in 5 mL of DMF at 0° C. After 5 minutes, 3-fluorobenzyl chloride (664.0 mg, 4.59 mM) was added and the resultant mixture stirred at 0° C. for 3 h, then at room temperature for 20 hours. The mixture was diluted with ethyl acetate, washed three times with 1 N HCl, three times with H2O, once with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 502.3 mg (37%) of the 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a yellow foam. 1H NMR (CDCl3) δ 7.4-7.2 (m, 4H), 6.9 (m, 1H), 6.7 (m, 2H), 5.35 (s, 2H), 4.05 (s, 3H), 2.9 (t, 2H, J=6 Hz), 2.65 (t, 2H, J=6 Hz), and 2.3 (m, 2H). IR (CHCl3, cm−1) 3050, 2950, 1725, 1654, 1464, 1451, 1440, 1288 and 1119. MS (ES) m/e 350, 352.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 3.82 mM, 930.0 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | 3-fluorobenzyl chloride | 4.59 mM, 664.0 mg | FC=1C=C(CCl)C=CC1 | C7H6ClF
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 502.3 mg, 37% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H18FNO3
